US04328223
61.8 g (0.3 mol) of 2-chloro-3a,4,5,6-tetrahydroperimidine are heated to 80° C. with 19.2 g (0.6 mol) of anhydrous hydrazine in 250 ml of ethanol for 4 hours. After cooling the mixture, 250 ml of petroleum ether are added and the crystals formed are isolated by filtration. 2-Hydrazino-3a,4,5,6-tetrahydro-perimidine is obtained. Yield: 54 g (89% of theory) of melting point 191°-193° C.

reactant | 2-chloro-3a,4,5,6-tetrahydroperimidine | 0.3 mol, 61.8 g | ClC=1NC=2C=CC=C3CCCC(N1)C23 | C11H11ClN2
reactant | hydrazine | 0.6 mol, 19.2 g | NN | H4N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-Hydrazino-3a,4,5,6-tetrahydro-perimidine | N(N)C=1NC=2C=CC=C3CCCC(N1)C23 | C11H14N4
